US04034095
Trans-2,3,4,4a,5,6,11,11a-octahydro-8-isopropylamino-2-methyl-1H-benzo[5,6]cyclohepta[1,2-c]pyridine [process e)]
A mixture of 25.0 g of trans-1,2,3,4,4a,5,11,11a-octahydro-8-isopropylamino-2-methyl-6H-benzo[5,6]-cyclohepta[1,2-c]pyridin-6-one, 16.0 ml of hydrazine hydrate, 16.0 g of potassium hydroxide and 350 ml of diethylene glycol, is heated first for 1 hour at 150° and then for 3 hours at 200° C., whereby the water formed distils off. The mixture is cooled to room temperature, diluted with water and shaken with methylene chloride. The organic phase is washed neutral with water, dried over sodium sulphate and evaporated, and the residue is reacted in ethanol with the theoretical amount of maleic acid to crystallise out the heading compound in hydrogen maleate form, which is filtered off and recrystallised from ethanol, m.p. from 185° (decomp.).

reactant | trans-1,2,3,4,4a,5,11,11a-octahydro-8-isopropylamino-2-methyl-6H-benzo[5,6]-cyclohepta[1,2-c]pyridin-6-one | 25.0 g | C(C)(C)NC=1C=CC2=C(C(C[C@@H]3[C@H](CN(CC3)C)C2)=O)C1 | C18H26N2O
reactant | hydrazine hydrate | 16.0 ml | O.NN
reactant | potassium hydroxide | 16.0 g | [OH-].[K+]
reactant | diethylene glycol | 350 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | Trans-2,3,4,4a,5,6,11,11a-octahydro-8-isopropylamino-2-methyl-1H-benzo[5,6]cyclohepta[1,2-c]pyridine | C(C)(C)NC=1C=CC2=C(CC[C@@H]3[C@H](CN(CC3)C)C2)C1 | C18H28N2
